US07476399B2
3-Methyl-thiophene-2-carboxylic acid 2,4-dimethoxy-benzylamide
Prepared in a similar manner to example 4 using 3-methyl-thiophene-2-carboxylic acid and 2,4-dimethoxy-benzylamine. MS (M+H, 292.2).

reactant | 3-methyl-thiophene-2-carboxylic acid | CC1=C(SC=C1)C(=O)O | C6H6O2S
reactant | 2,4-dimethoxy-benzylamine | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
product | 3-Methyl-thiophene-2-carboxylic acid 2,4-dimethoxy-benzylamide | COC1=C(CNC(=O)C=2SC=CC2C)C=CC(=C1)OC | C15H17NO3S
